US08022073B2
A mixture of 3.77 g of 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(3-thienyl)-2(5H)-furanone, 0.73 g of hydrazine monohydrate and 30 ml of 1-butanol was heated under reflux for 0.5 hours. The reaction mixture was cooled to 0° C. The deposited solid was collected by filtration. The solid was washed with a mixed solvent of hexane and t-butyl methyl ether, and dried under reduced pressure, to obtain 1.49 g of 5-(4-chlorophenyl)-6-methyl-4-(3-thienyl)-2H-pyridazin-3-one.

reactant | 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(3-thienyl)-2(5H)-furanone | 3.77 g | ClC1=CC=C(C=C1)C1=C(C(OC1(C)O)=O)C1=CSC=C1 | C15H11ClO3S
reactant | hydrazine monohydrate | 0.73 g | O.NN
solvent | 1-butanol | 30 ml | C(CCC)O | C4H10O
product | 5-(4-chlorophenyl)-6-methyl-4-(3-thienyl)-2H-pyridazin-3-one | 1.49 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=CSC=C1 | C15H11ClN2OS
